US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 4-fluoro-3-methylaniline were reacted to provide 2-chloro-5-fluoro-N4-(4-fluoro-3-methylphenyl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.06 (d, 1H, J=2.4 Hz), 7.48–7.43 (m, 1H), 7.39 (dd, 1H, J=2.7 and 6.3 Hz), 7.03 (t, 1H, J=9.0 Hz), 6.84 (bs, 1H), 2.30 (d, 1H, J=1.8 Hz); 19F NMR (282 MHz, CDCl3): −34285, −44676; LCMS: purity: 95%; MS (m/e): 257(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-fluoro-3-methylaniline | FC1=C(C=C(N)C=C1)C | C7H8FN
product | 2-chloro-5-fluoro-N4-(4-fluoro-3-methylphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)F)C)F | C11H8ClF2N3
